US07332508B2
1-Isopropyl-4-[5-(4-ethylphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and 4-ethylbenzoyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | 4-ethylbenzoyl chloride | C(C)C1=CC=C(C(=O)Cl)C=C1 | C9H9ClO
product | 1-Isopropyl-4-[5-(4-ethylphenyl)[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1=CC=C(C=C1)CC | InChI=1S/C18H25N3O.ClH/c1-4-14-5-7-16(8-6-14)18-19-17(20-22-18)15-9-11-21(12-10-15)13(2)3;/h5-8,13,15H,4,9-12H2,1-3H3;1H
